US08623870B2
21 mg (0.029 mmol) of bistriphenylphosphine)palladium(II) chloride, one drop of triethylamine and 200 μl of DMF are added to a suspension, kept under nitrogen, of 131 mg (0.294 mmol) of 2-[3-(5-bromooxazol-2-yl)benzyl]-6-(3,5-difluorophenyl)-2H-pyridazin-3-one, 144 mg (0.382 mmol) of tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]-piperidine-1-carboxylate and 135 mg (0.382 mmol) of tripotassium phosphate trihydrate in 1.2 ml of 1,2-dimethoxyethane, and the mixture is stirred at 80° C. for 18 hours. The reaction mixture is diluted with THF and filtered off with suction. The filtrate is washed twice with saturated sodium chloride solution, dried over sodium sulfate and evaporated. The residue is chromatographed on a silica-gel column with dichloromethane/methanol, giving tert-butyl 4-[4-(2-{3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]phenyl}oxazol-5-yl)pyrazol-1-yl]piperidine-1-carboxylate as yellow-ish crystals; ESI 615.

reactant | DMF | 200 μl | CN(C)C=O | C3H7NO
reactant | 2-[3-(5-bromooxazol-2-yl)benzyl]-6-(3,5-difluorophenyl)-2H-pyridazin-3-one | 0.294 mmol, 131 mg | BrC1=CN=C(O1)C=1C=C(CN2N=C(C=CC2=O)C2=CC(=CC(=C2)F)F)C=CC1 | C20H12BrF2N3O2
reactant | tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]-piperidine-1-carboxylate | 0.382 mmol, 144 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | tripotassium phosphate trihydrate | 0.382 mmol, 135 mg | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 1.2 ml | COCCOC | C4H10O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium(II) chloride | [Pd](Cl)Cl
product | tert-butyl 4-[4-(2-{3-[3-(3,5-difluorophenyl)-6-oxo-6H-pyridazin-1-ylmethyl]phenyl}oxazol-5-yl)pyrazol-1-yl]piperidine-1-carboxylate | FC=1C=C(C=C(C1)F)C1=NN(C(C=C1)=O)CC=1C=C(C=CC1)C=1OC(=CN1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C33H32F2N6O4
